US07572801B2
Phenethyloxy-acetic acid (3.89 g, 18.9 mmol) was dissolved in a mixture of 50 ml dichloromethane and 2.6 ml DMF. Oxalyl chloride ([79-37-8], 1.76 ml, 20.8 mmol) was slowly added, and the mixture was stirred at r.t. overnight. Phenethyloxy-acetyl chloride [221019-38-1] was obtained after evaporation of the solvent, and was sufficiently pure for the next step.

reactant | Phenethyloxy-acetic acid | 18.9 mmol, 3.89 g | C(CC1=CC=CC=C1)OCC(=O)O | C10H12O3
reactant | Oxalyl chloride | 20.8 mmol, 1.76 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | DMF | 2.6 ml | CN(C)C=O | C3H7NO
product | Phenethyloxy-acetyl chloride | C(CC1=CC=CC=C1)OCC(=O)Cl | C10H11ClO2
